US06780853B1
A solution of 17β-propynyloxy)-5α-androstan-3-one (230 mg, 0.7 mmol) in dry THF (20 mL) was treated with MeLi (5 mL, 1M in THF, 5 mmol) at −70° C. After stirring the mixture at −70° C. for 0.5 hr, the cooling bath was removed and it was warmed to 10° C. The mixture was then quenched with NH4Cl solution (5 mL). The solvents were removed and the residue was extracted with EtOAc. The organic layer was washed with water, and brine. After drying over anhyd. MgSO4 the solution was filtered and evaporated to yield the crude product. This crude product was then dissolved in a small amount of CH2Cl2 and poured on a column of silica gel. Elution with toluene:acetone mixture (98:2) gave 3α-hydroxy-3β-methyl-17β-(2-propynyloxy)-5α-androstane (40 mg); TLC Rf (toluene:acetone 95:5)=0.31; and then 3β-hydroxy-3α-methyl-17β-(2-propynyloxy)-5α-androstane (70 mg) as a colorless solid; TLC Rf (hexane:acetone 7:3)=0.27.

reactant | 5α-androstan-3-one | 0.7 mmol, 230 mg | C[C@@]12CCC[C@H]1[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C19H30O
reactant | MeLi | 5 mmol, 1M, 5 mL | [Li]C
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3α-hydroxy-3β-methyl-17β-(2-propynyloxy)-5α-androstane | 40 mg | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCC#C)C | C23H36O2
